US07855194B2
Step 2: 4-[6-Chloro-4-(2-fluoro-phenyl)-quinazolin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2,6-dichloro-4-(2-fluoro-phenyl)-quinazoline (0.92 g, 3.14 mmol, 1.0 equiv) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (0.82 g, 4.08 mmol, 1.3 equiv; commercially available) in anhydrous NMP (8 mL) was heated by microwave irradiation to 180° C. for 40 min. The organic phase was concentrated under reduced pressure and the residue extracted with dichloromethane (3×50 mL) from a sat. solution of sodium bicarbonate (100 mL). The combined organic phases were dried over MgSO4 and the product purified by column chromatography on silica eluting with a gradient of heptane/ethyl acetate (6:1 h 1:1) providing 0.66 g (66%) of the title compound. MS (ISP): 457.4 [M+H]+.

reactant | 2,6-dichloro-4-(2-fluoro-phenyl)-quinazoline | 3.14 mmol, 0.92 g, 1.0 equiv | ClC1=NC2=CC=C(C=C2C(=N1)C1=C(C=CC=C1)F)Cl | C14H7Cl2FN2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
product | 4-[6-Chloro-4-(2-fluoro-phenyl)-quinazolin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.66 g, 66% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC=C(C=C2C(=N1)C1=C(C=CC=C1)F)Cl | C24H26ClFN4O2
